US04205074
1-Diphenylmethyleneindolizidine
To a phenyl lithium solution prepared by dissolving 0.51 g. of metallic lithium and 6.32 g. of bromobenzene in 50 ml. of absolute ether, was dropwise added a solution of 2.40 g. of 1-ethoxycarbonylindolizidine in 20 ml. of absolute ether under ice cooling. After refluxing for about 10 mins., water was dropwise added thereto, followed by extraction with ether. The ethereal layer was further extracted with dil. hydrochloric acid. The aqueous layer was rendered alkaline with an aq. sodium hydroxide solution and then extracted with ether. The ethereal layer was washed with water and dried. After removing the solvent by distillation, 3.58 g. of light yellow viscous substance was obtained.

reactant | phenyl lithium | C1(=CC=CC=C1)[Li]
reactant | lithium | [Li] | Li
reactant | bromobenzene | BrC1=CC=CC=C1 | C6H5Br
reactant | 1-ethoxycarbonylindolizidine | C(C)OC(=O)C1CCN2CCCCC12 | C11H19NO2
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 1-Diphenylmethyleneindolizidine | C1(=CC=CC=C1)C(=C1CCN2CCCCC12)C1=CC=CC=C1 | C21H23N
